US04051248
B. 8-[(2,3-Dihydro-5,6-dimethoxy-1-oxo-1H-inden-2-yl)methyl]-1-phenyl-1,3,8-triazaspiro[4.5]decan-4-one
2-[(Dimethylamino)methyl]-5,6-dimethoxy-1-indanone, hydrochloride (1:1) (2.0 g) and 1-phenyl-1,3,8-triazaspiro[4.5]decan-4-one (1.94 g) are stirred for 20 hours in 20 ml of absolute ethanol while a slow stream of nitrogen is bubbled through. The resultant precipitate is filtered off and dried to yield 2.75 g of the title compound, melting point 174°-177° C.

reactant | 2-[(Dimethylamino)methyl]-5,6-dimethoxy-1-indanone, hydrochloride | 2.0 g | Cl.CN(C)CC1C(C2=CC(=C(C=C2C1)OC)OC)=O
reactant | 1-phenyl-1,3,8-triazaspiro[4.5]decan-4-one | 1.94 g | C1(=CC=CC=C1)N1CNC(C12CCNCC2)=O | C13H17N3O
solvent | ethanol | 20 ml | C(C)O | C2H6O
product | 8-[(2,3-Dihydro-5,6-dimethoxy-1-oxo-1H-inden-2-yl)methyl]-1-phenyl-1,3,8-triazaspiro[4.5]decan-4-one | 2.75 g | COC=1C=C2CC(C(C2=CC1OC)=O)CN1CCC2(C(NCN2C2=CC=CC=C2)=O)CC1 | C25H29N3O4
